US07304081B2
Step 4: Synthesis of spiro [1,2-benzisothiazole-3,3′-pyrrolidine]1,1-dioxide
To a solution of 1′-benzylspiro[1,2-benzisothiazole-3,3′-pyrrolidine]1,1-dioxide (170 mg, 0.00054 mol) in methanol were added Pd black (150 mg) and formic acid (0.2 mL, 0.005 mol). The resulting reaction mixture was refluxed overnight, then cooled to r.m., and then filtered and concentrated to give the desired compound (50 mg, 42% Yield). MS (ESI): 225.1 (M+H+).

reactant | 1′-benzylspiro[1,2-benzisothiazole-3,3′-pyrrolidine]1,1-dioxide | 0.00054 mol, 170 mg | C(C1=CC=CC=C1)N1CC2(CC1)NS(C1=C2C=CC=C1)(=O)=O | C17H18N2O2S
reactant | formic acid | 0.005 mol, 0.2 mL | C(=O)O | CH2O2
solvent | methanol | CO | CH4O
catalyst | Pd | 150 mg | [Pd] | Pd
product | spiro [1,2-benzisothiazole-3,3′-pyrrolidine]1,1-dioxide | 50 mg, 42% Yield | N1CC2(CC1)NS(C1=C2C=CC=C1)(=O)=O | C10H12N2O2S
